US04987132
To a solution of 40 mg of 1-(3-phenylpropyl)-4-[2-(3-pyridyl)thiazolidin-4-ylcarbonyl]piperazine in 5 ml of dichloromethane, there was added 0.5 ml of a formic acidacetic anhydride (5:3, v/v) mixture, and the resultant mixture was stirred overnight at room temperature. Ethyl acetate (20 ml) was added to the reaction mixture, the dilution was washed with 5% aqueous sodium hydrogen carbonate and with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 30 mg of 1-[3-formyl-2-(3-pyridyl)thiazolidin-4-ylcarbonyl]-(3-phenylpropyl)piperazine as an oil.

reactant | 1-(3-phenylpropyl)-4-[2-(3-pyridyl)thiazolidin-4-ylcarbonyl]piperazine | 40 mg | C1(=CC=CC=C1)CCCN1CCN(CC1)C(=O)C1NC(SC1)C=1C=NC=CC1 | C22H28N4OS
reactant | formic acidacetic anhydride | 0.5 ml | C(C)(=O)OC=O | C3H4O3
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-[3-formyl-2-(3-pyridyl)thiazolidin-4-ylcarbonyl]-(3-phenylpropyl)piperazine | 30 mg | C(=O)N1C(SCC1C(=O)N1C(CNCC1)CCCC1=CC=CC=C1)C=1C=NC=CC1 | C23H28N4O2S
